US07902394B2
To a solution of 2,2-dimethyl-3-(4-methoxyphenyl)propanoic acid (36.0 g, 0.17 mol) in toluene (160 mL) was added triethylamine (19.2 g, 0.19 mol) and cooled to 0° C. To this cooled mixture was added diphenylphosphoryl azide (52.3 g, 0.19 mol) and the reaction mixture was stirred at room temperature for 15 min and then heated at 75° C. for 2.5 h. The progress of the reaction was monitored by TLC. After the completion of the reaction, as indicated by TLC it was cooled to room temperature and quenched with water (500 mL) and extracted with EtOAc (2×500 mL). The organic extracts were combined and dried over Na2SO4, filtered and concentrated to give an oil. This oil was dissolved in a mixture of 1,4-dioxane (108 mL) and 6 N HCl (180 mL) and heated at reflux for 1 h. After 1 h, the reaction mixture was cooled to room temperature and diluted with water (100 mL) and dichloromethane (400 mL). The organic layer was separated and pH of the aqueous layer was adjusted to ˜14 with 6 M NaOH (200 mL) and extracted with dichloromethane (3×500 mL). The combined organic extracts were dried over Na2SO4, filtered and concentrated to give 20.0 g (65%) of 2-methyl-1-(4-methoxyphenyl)-2-propanamine as a yellow oil; 1H NMR (200 MHz, CDCl3) δ 7.10 (d, J=8.4 Hz, 2H), 6.84 (d, J=8.4 Hz, 2H), 3.79 (s, 3H), 2.59 (s, 2H), 1.10 (s, 6H).

reactant | 2,2-dimethyl-3-(4-methoxyphenyl)propanoic acid | 0.17 mol, 36.0 g | CC(C(=O)O)(CC1=CC=C(C=C1)OC)C | C12H16O3
reactant | triethylamine | 0.19 mol, 19.2 g | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 0.19 mol, 52.3 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | toluene | 160 mL | C1(=CC=CC=C1)C | C7H8
solvent | 1,4-dioxane | 108 mL | O1CCOCC1 | C4H8O2
solvent | HCl | 6 N, 180 mL | Cl | ClH
solvent | water | 100 mL | O | H2O
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
product | 2-methyl-1-(4-methoxyphenyl)-2-propanamine | 20.0 g, 65% | CC(CC1=CC=C(C=C1)OC)(C)N | C11H17NO
